US05753679
0.1 g (0.00043 mol) of 6-trifluoroacetamido-nicotinic acid was dissolved in 10 ml of THF, treated with 0.073 g (0.00045 mol) of carbonyldiimidazole and stirred at 60° for 2 hrs. Then, 0.086 g (0.00045 mol) of 1-benzyl-4-hydroxypiperidine was added and the mixture was stirred at 60° overnight. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:1) as the eluent. 0.097 g (72%) of 1-benzyl-piperidin-4-yl 6-amino-nicotinate was obtained as white crystals; m.p. 135°-136°.

reactant | 6-trifluoroacetamido-nicotinic acid | 0.00043 mol, 0.1 g | FC(C(=O)NC1=NC=C(C(=O)O)C=C1)(F)F | C8H5F3N2O3
reactant | carbonyldiimidazole | 0.00045 mol, 0.073 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-benzyl-4-hydroxypiperidine | 0.00045 mol, 0.086 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-benzyl-piperidin-4-yl 6-amino-nicotinate | 0.097 g, 72% | NC1=NC=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1 | C18H21N3O2
